US08530490B2
Synthesis of (3-(cyclopropylmethoxy)-4-fluorophenyl)methanamine
4-Fluoro-3-hydroxybenzoic acid (15.0 g) was dissolved in DMF (200 mL). To the solution, (chloromethyl)cyclopropane (18.0 mL), potassium carbonate (29.2 g), and potassium iodide (1.6 g) were added, and the mixture was stirred at 90° C. for 6 hours. The reaction mixture was cooled to room temperature, water (120 mL) was then added thereto, and the resultant mixture was then extracted with toluene (120 mL). The organic layer was washed with brine (100 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was dissolved in toluene (65 mL). To the solution, a solution of diisobutylaluminum hydride in hexane (hereinafter, referred to as DIBAL) (1.0 M, 130 mL) was added dropwise at 0° C., and the reaction mixture was stirred at 0° C. for 2 hours. To the reaction mixture, water (10 mL) and an aqueous sodium hydroxide solution (1.0 M, 10 mL) were gradually added. The resultant precipitate was removed by filtration and washed with ethyl acetate (100 mL×5). Then, the combined filtrate was concentrated under reduced pressure. To the residue, water (100 mL) was added, and the resultant mixture was then extracted with ethyl acetate (150 mL). The organic layer was washed with brine (50 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (40% ethyl acetate/hexane). The obtained compound was dissolved in THF (75 mL). To the solution, diphenylphosphoryl azide (12.9 mL) and 1,8-diazabicyclo[5.4.0]-7-undecene (hereinafter, referred to as DBU) (9.4 mL) were added dropwise at room temperature, and the mixture was stirred at room temperature for 1 hour. To the reaction mixture, brine (100 mL) was added, and the aqueous layer was extracted with ethyl acetate (100 mL×2). The organic layer was washed with brine (100 mL), then dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20% ethyl acetate/hexane). The obtained compound was dissolved in THF (80 mL). To the solution, a solution of LAH in THF (2.4 M, 40 mL) was gradually added dropwise at 0° C., and the mixture was stirred at 0° C. for 1 hour. To the reaction mixture, water (5.0 mL) and aqueous sodium hydroxide solution (1.0 M, 5.0 mL) were gradually added dropwise at 0° C. The resultant precipitate was removed by filtration and washed with 10% methanol/THF (200 mL). Then, the combined filtrate was concentrated under reduced pressure. To the residue, brine (100 mL) was added, and the resultant mixture was then extracted with ethyl acetate (150 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain the title compound (10.5 g) as a crude product.

reactant | 4-Fluoro-3-hydroxybenzoic acid | 15.0 g | FC1=C(C=C(C(=O)O)C=C1)O | C7H5FO3
reactant | (chloromethyl)cyclopropane | 18.0 mL | ClCC1CC1 | C4H7Cl
reactant | potassium carbonate | 29.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.6 g | [I-].[K+]
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | 120 mL | O | H2O
product | (3-(cyclopropylmethoxy)-4-fluorophenyl)methanamine | 10.5 g | C1(CC1)COC=1C=C(C=CC1F)CN | C11H14FNO
